US05612373
Methyl 4-[3-methyl-3-(4-amidinobenzoyl)carbazoyl]phenoxyacetate, hydroiodide salt
In a similar manner to Example 12, methyl 4-[3-methyl-3-(4-thiocarbamoylbenzoyl)carbazoyl]phenoxyacetate (2 g) was reacted with iodomethane (15 ml) in acetone (200 ml) and the resultant product was treated with ammonium acetate (5 g), methanol (150 ml) and dichloromethane (150 ml). This yielded a crude yellow solid, which was triturated with methanol/dichloromethane, rather than crystallised, to give the title compound (800 mg) as a pale yellow hydroiodide salt; m.p. 208° C. (decomposes); NMR Spectrum (DMSO-d6) 3.15-3.30 (3H, br), 3.70 (3H, s), 4.86 (2H, s), 6.97 (2H, d), 7.63 (2H, d), 7.67-7.80 (4H, m), 8.70-9.20 (4H, br s); Mass Spectrum m/Z 385 (M+H)+ ; Elemental Analysis: calculated for C19H20N4O5. 1.0 HI. 1.0 H2O: C, 43.0%; H, 4.4%; N, 10.6%; found: C, 43.4%; H, 4.5%; N, 10.1%.

reactant | methyl 4-[3-methyl-3-(4-thiocarbamoylbenzoyl)carbazoyl]phenoxyacetate | 2 g | CN(NC(=O)C1=CC=C(OCC(=O)OC)C=C1)C(C1=CC=C(C=C1)C(N)=S)=O | C19H19N3O5S
reactant | iodomethane | 15 ml | IC | CH3I
reactant | ammonium acetate | 5 g | C(C)(=O)[O-].[NH4+]
reactant | methanol | 150 ml | CO | CH4O
solvent | acetone | 200 ml | CC(=O)C | C3H6O
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | Methyl 4-[3-methyl-3-(4-amidinobenzoyl)carbazoyl]phenoxyacetate, hydroiodide salt | 800 mg | I.CN(NC(=O)C1=CC=C(OCC(=O)OC)C=C1)C(C1=CC=C(C=C1)C(N)=N)=O | InChI=1S/C19H20N4O5.HI/c1-23(19(26)14-5-3-12(4-6-14)17(20)21)22-18(25)13-7-9-15(10-8-13)28-11-16(24)27-2;/h3-10H,11H2,1-2H3,(H3,20,21)(H,22,25);1H
